US08426447B2
(R)-2′-(3,3-dimethylbut-1-ynyl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine (400 mg, 0.974 mmol) and palladium on carbon (104 mg, 0.974 mmol) were combined in 20 ml of ethanol and stirred under an atmosphere of hydrogen for 12 hours. The solution is filtered thru celite and concentrated. The product is purified via silica gel column chromatography (RediSep 80 g column) using 0-10% methanol in ethyl acetate to afford (R)-2′-(3,3-dimethylbutyl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine as a white crystalline solid. Found MS: MH+=415.2.

reactant | (R)-2′-(3,3-dimethylbut-1-ynyl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 0.974 mmol, 400 mg | CC(C#CC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(OC3)N)(C)C | C25H22N4O2
catalyst | palladium on carbon | 0.974 mmol, 104 mg | [Pd] | Pd
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (R)-2′-(3,3-dimethylbutyl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | CC(CCC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(OC3)N)(C)C | C25H26N4O2
